US05807927
82.7 g (0.51 mol) of 1,1'-carbonyldiimidazole in 5.0 l of tetrahydrofuran are allowed to react as described in Example 1, with 93.08 g (0.5 mol) of 3-(3,5,5-trimethyl-2,4-dioxoimidazolidin-1-yl)propionic acid and are subsequently reacted with 53.62 g (0.51 mol) of 2-aminoacetaldehyde dimethyl acetal. The reaction mixture is evaporated in a rotary evaporator, and the imidazole present in the residue is removed by distillation at a bath temperature of 120° C./0.1 mmHg for 3 hours, giving 134.1 g (98.1% of theory) of a brownish, liquid crude product, which is recrystallized from 130 ml of ethyl acetate, giving 88.1 g (65.0% of theory) of colourless, crystalline N-(2,2-di methoxyethyl)-3-(3,5,5-trimethyl-2,4-dioxoimidazolidin-1-yl)propionamide, whose melting point is 86.4° C.

reactant | 1,1'-carbonyldiimidazole | 0.51 mol, 82.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(3,5,5-trimethyl-2,4-dioxoimidazolidin-1-yl)propionic acid | 0.5 mol, 93.08 g | CN1C(N(C(C1=O)(C)C)CCC(=O)O)=O | C9H14N2O4
reactant | 2-aminoacetaldehyde dimethyl acetal | 0.51 mol, 53.62 g | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 5.0 l | O1CCCC1 | C4H8O
product | N-(2,2-di methoxyethyl)-3-(3,5,5-trimethyl-2,4-dioxoimidazolidin-1-yl)propionamide | COC(CNC(CCN1C(N(C(C1(C)C)=O)C)=O)=O)OC | C13H23N3O5
